US07851473B2
(1) tert-Butyl 4-(4-phenyl-1,3-thiazol-2-yl)piperidine-1-carboxylate
A mixture of tert-butyl 4-(aminocarbonothioyl)piperidine-1-carboxylate (1.00 g, 7.24 mmol), 2-bromoacetophenone (1.58 g, 7.96 mmol), potassium carbonate (1.00 g, 7.24 mmol) and N,N-dimethylformamide (30 ml) was stirred at 110° C. for 1.5 hours. The reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane: ethyl acetate=1:1) to obtain the desired product (1.38 g, 55.2%) as an oil.

reactant | tert-butyl 4-(aminocarbonothioyl)piperidine-1-carboxylate | 7.24 mmol, 1.00 g | NC(=S)C1CCN(CC1)C(=O)OC(C)(C)C | C11H20N2O2S
reactant | 2-bromoacetophenone | 7.96 mmol, 1.58 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | potassium carbonate | 7.24 mmol, 1.00 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | tert-Butyl 4-(4-phenyl-1,3-thiazol-2-yl)piperidine-1-carboxylate | 1.38 g, 55.2% | C1(=CC=CC=C1)C=1N=C(SC1)C1CCN(CC1)C(=O)OC(C)(C)C | C19H24N2O2S
